US08975254B2
a) 2-(tert-butyldiphenylsilyloxy)propanamide
2-hydroxy-propanamide (227 mg, 2.55 mmol), DMF (2 ml), tert-butylchlorodiphenyl-silane (1.0 ml, 1057 mg), imidazole (266 mg, 3.91 mmol) and 4-dimethylaminopyridine (93 mg, 0.764 mmol) dissolved in DMF (2 ml) were stirred under nitrogen atmosphere over the weekend. After the weedend the temperature was raised to 90° C. and was left to react for another 4 h. The mixture was then evaporated and extracted with DCM/water and the combined organic phases were evaporated. The product was purified by column chromatography. 1H-NMR (400 MHz; DMSO-d6): δ 1.04 (d, 9H), 1.12 (d, 3H), 4.00 (q, 1H), 7.04 (bs, 1H), 7.24 (bs, 1H), 7.40-7.51 (m, 6H), 7.58-7.66 (m, 4H).

reactant | 2-hydroxy-propanamide | 2.55 mmol, 227 mg | OC(C(=O)N)C | C3H7NO2
reactant | tert-butylchlorodiphenyl-silane | 1.0 ml, 1057 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 3.91 mmol, 266 mg | N1C=NC=C1 | C3H4N2
catalyst | 4-dimethylaminopyridine | 0.764 mmol, 93 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(tert-butyldiphenylsilyloxy)propanamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C(=O)N)C | C19H25NO2Si
